US08420816B2
Step A: (R)-5-chloro-4-((3-cyano-1-(cyclopentylamino)-1-oxopropan-2-ylamino)methyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid
A mixture of sodium triacetoxyborohydride (26.5 mg, 0.125 mmol) and (R)-2-amino-3-cyano-N-cyclopentylpropanamide (22.70 mg, 0.125 mmol) in DCM (1 mL) was stirred at room temperature for 10 min. The reaction mixture was cooled to 0° C. A solution of 5-chloro-4-formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid (30 mg, 0.063 mmol) in DCM (1 mL) was added. The reaction mixture was stirred at 0° C. for 20 min and then concentrated to afford the title compound. [M+H] calc'd for C26H28ClN5O5S, 544; found, 544.2.

reactant | sodium triacetoxyborohydride | 0.125 mmol, 26.5 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | (R)-2-amino-3-cyano-N-cyclopentylpropanamide | 0.125 mmol, 22.70 mg | N[C@@H](C(=O)NC1CCCC1)CC#N | C9H15N3O
reactant | 5-chloro-4-formyl-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | 0.063 mmol, 30 mg | ClC=1C(=C2C(=NC1)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2)C=O | C16H11ClN2O5S
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 1 mL | C(Cl)Cl | CH2Cl2
product | (R)-5-chloro-4-((3-cyano-1-(cyclopentylamino)-1-oxopropan-2-ylamino)methyl)-1-tosyl-1H-pyrrolo[2,3-b]pyridine-3-carboxylic acid | ClC=1C(=C2C(=NC1)N(C=C2C(=O)O)S(=O)(=O)C2=CC=C(C)C=C2)CN[C@@H](C(=O)NC2CCCC2)CC#N | C25H26ClN5O5S
